US06924284B2
Using a procedure similar to that described for 6H-pyrido[2,3-d]pyridazin-5-one derivatives (Examples 5), 3-carbamoylpicolinic acid (1.5 mmol) was reacted with excess MsCl (4.0 mmol) to yield methyl 3-cyanopicolinate (1.2 mmol). Methyl 3-cyanopicolinate (1.2 mmol), Sc(OTf)3 (0.02 mmol), and diaminopropane (3.0 mmol) were combined and heated at 80° C. for 1 h to yield 7.8-dihydro-6H-1,5,8a-triaza-fluoren-9-one, which was treated with excess hydrazine hydrate (5.0 mmol) in EtOH at RT to yield compound 5-(3-amino-propylamino)-7H-pyrido[2,3-d]pyrido[2,3-d]pyridazin-8-one (0.75 mmol) as a yellow solid.

reactant | 6H-pyrido[2,3-d]pyridazin-5-one | N1=CC=CC2=C1C=NNC2=O | C7H5N3O
reactant | 3-carbamoylpicolinic acid | 1.5 mmol | C(N)(=O)C=1C(=NC=CC1)C(=O)O | C7H6N2O3
reactant | MsCl | 4.0 mmol | CS(=O)(=O)Cl | CH3ClO2S
product | methyl 3-cyanopicolinate | 1.2 mmol | C(#N)C=1C(=NC=CC1)C(=O)OC | C8H6N2O2
